US07820683B2
N-[1-(3-fluorobenzyl)-1H-indazol-5-yl]-5-[(1R)-1-methyl-2-oxo-2-pyrrolidin-1-ylethoxy]-quinazolin-4-amine
Using the same procedure as in Example 26, methyl (2R)-2-[(4-{[1-(3-fluorobenzyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]propanoate (250 mg, 0.53 mmol) was reacted with pyrrolidine (0.44 ml, 5.3 mmol) to give the title compound as a white solid (210 mg, 77%), except that the mixture was heated at 55° C. for 20 hours and purified by chromatography on silica gel (eluant: 3% methanol in DCM); NMR Spectrum 1.60 (d, 3H), 1.82 (m, 2H), 1.94 (m, 2H), 3.5-3.3 (m, 3H), 3.76 (m, 1H), 5.62 (q, 1H), 5.70 (s, 2H), 7.07 (m, 3H), 7.27 (d, 1H), 7.36 (m, 2H), 7.74 (m, 2H), 7.85 (m, 1H), 8.16 (s, 1H), 8.51 (s, 1H), 8.56 (s, 1H), 11.08 (br s, 1H); Mass spectrum 511.

reactant | methyl (2R)-2-[(4-{[1-(3-fluorobenzyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]propanoate | 0.53 mmol, 250 mg | FC=1C=C(CN2N=CC3=CC(=CC=C23)NC2=NC=NC3=CC=CC(=C23)O[C@@H](C(=O)OC)C)C=CC1 | C26H22FN5O3
reactant | pyrrolidine | 5.3 mmol, 0.44 ml | N1CCCC1 | C4H9N
product | N-[1-(3-fluorobenzyl)-1H-indazol-5-yl]-5-[(1R)-1-methyl-2-oxo-2-pyrrolidin-1-ylethoxy]-quinazolin-4-amine | 210 mg, 77% | FC=1C=C(CN2N=CC3=CC(=CC=C23)NC2=NC=NC3=CC=CC(=C23)O[C@@H](C(N2CCCC2)=O)C)C=CC1 | C29H27FN6O2
